US05705646
B. 4-Bromo-3,5-diethyl-1 -(2,4,6-trimethylphenyl)pyrazole
A solution of 6.4 g (0.04 mol) of bromine in 20 mL of glacial acetic acid was added dropwise to a stirred solution of 9.00 g (37 mmol) of 3,5-diethyl-1-(2,4,6-trimethylphenyl)pyrazole in 100 mL of glacial acetic acid. After 1 hour at room temperature, the acetic acid was evaporated under reduced pressure and the residues were dissolved in ethyl acetate. This solution was washed with saturated sodium bicarbonate to remove residual acetic acid, dried with brine and magnesium sulfate, and was concentrated on the rotovap. The product was a tan solid (10.26 g, purification. 1H-NMR(CDCl3):0.92 (3H, t, J=7), 1.15 (3H, t, J=7), 1.86 (6H, s), 2.24 (3H, s), 2.32 (2H, q, J=7), 2.60 (2H, q, J=7), 6.82 (2H, s).

reactant | bromine | 0.04 mol, 6.4 g | BrBr | Br2
reactant | 3,5-diethyl-1-(2,4,6-trimethylphenyl)pyrazole | 37 mmol, 9.00 g | C(C)C1=NN(C(=C1)CC)C1=C(C=C(C=C1C)C)C | C16H22N2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-3,5-diethyl-1 -(2,4,6-trimethylphenyl)pyrazole | BrC=1C(=NN(C1CC)C1=C(C=C(C=C1C)C)C)CC | C16H21BrN2
